US06310086B1
(R)-3-[7-Cyano-5-[2-[[2-(2-ethoxyphenoxy)ethyl]-amino]propyl]-2,3-dihydro-1H-indol-1-yl]propyl benzoate (7.23 g) was dissolved in methanol (46 ml) and the solution was added to a solution of potassium hydroxide (1.54 g) in distilled water (9.2 ml). After being heated under reflux for 1 hour, the reaction mixture was concentrated in vacuo. Distilled water (100 ml) was added to the residue and the resulting mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous sodium bicarbonate solution and brine, and dried over anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was dissolved in toluene(30 ml) and the toluene was removed in vacuo to give (R)-5-[2-[[2-(2-ethoxyphenoxy)ethyl]amino]propyl]-1-(3-hydroxypropyl)-2,3-dihydro-1H-indole-7-carbonitrile(6.06 g) as a pale brown oil.

reactant | (R)-3-[7-Cyano-5-[2-[[2-(2-ethoxyphenoxy)ethyl]-amino]propyl]-2,3-dihydro-1H-indol-1-yl]propyl benzoate | 7.23 g | C(C1=CC=CC=C1)(=O)OCCCN1CCC2=CC(=CC(=C12)C#N)C[C@@H](C)NCCOC1=C(C=CC=C1)OCC | C32H37N3O4
reactant | potassium hydroxide | 1.54 g | [OH-].[K+]
solvent | methanol | 46 ml | CO | CH4O
solvent | water | 9.2 ml | O | H2O
product | (R)-5-[2-[[2-(2-ethoxyphenoxy)ethyl]amino]propyl]-1-(3-hydroxypropyl)-2,3-dihydro-1H-indole-7-carbonitrile | 6.06 g | C(C)OC1=C(OCCN[C@@H](CC=2C=C3CCN(C3=C(C2)C#N)CCCO)C)C=CC=C1 | C25H33N3O3
